US08629133B2
Benzyl [trans-4-(hydrazinocarbonyl)cyclohexyl]carbamate
Hydrazine monohydrate (1.42 ml, 23.4 mmol), 1-hydroxybenzotriazole (2.44 g, 18.0 mmol), and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (4.49 g, 23.4 mmol) were added to an N,N-dimethylformamide (75 ml) solution of trans-4-(carbobenzoxyamino)cyclohexanecarboxylic acid (5.00 g, 18.0 mmol) at room temperature and the resulting mixture was stirred for 3 days. Water (150 ml) was added to the reaction mixture and the precipitated solid was collected by filtration and dried under reduced pressure to give 4.52 g (86%) of the title compound as a colorless solid.

reactant | Hydrazine monohydrate | 23.4 mmol, 1.42 ml | O.NN
reactant | 1-hydroxybenzotriazole | 18.0 mmol, 2.44 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 23.4 mmol, 4.49 g | Cl.C(C)N=C=NCCCN(C)C
reactant | trans-4-(carbobenzoxyamino)cyclohexanecarboxylic acid | 18.0 mmol, 5.00 g | C(=O)(OCC1=CC=CC=C1)N[C@@H]1CC[C@H](CC1)C(=O)O | C15H19NO4
solvent | Water | 150 ml | O | H2O
solvent | N,N-dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
product | Benzyl [trans-4-(hydrazinocarbonyl)cyclohexyl]carbamate | 4.52 g, 86% | N(N)C(=O)[C@@H]1CC[C@H](CC1)NC(OCC1=CC=CC=C1)=O | C15H21N3O3
